### PR TITLE
feat: introduce `Headers` data type for HTTP

### PR DESCRIPTION
**Pull request by algebraic-dev**
This PR introduces the `Headers` data type, that provides a good and convenient abstraction for parsing, querying, and encoding HTTP/1.1 headers.

This contains the same code as #10478, divided into separate pieces to facilitate easier review. 

The pieces of this feature are:
- Core data structures: #12126
- Headers: #12127
- URI:  #12128
- Body: #12144
- H1: #12146
- Server: #12151
- Client:

### CODE REVIEW

File: src/Init/Data/String/Defs.lean [hunk 1]
```diff
@@ -228,6 +228,14 @@ Examples:
 @[inline] def isEmpty (s : String) : Bool :=
   s.utf8ByteSize == 0
 
+theorem isEmpty_eq {s : String} : s.isEmpty = (s.utf8ByteSize == 0) := by rfl
+
+theorem isEmpty_iff {s : String} : s.isEmpty ↔ s.utf8ByteSize = 0 := by
+  simp [isEmpty_eq]
+
+instance {s : String} : Decidable s.isEmpty :=
+  decidable_of_iff' _ isEmpty_iff
```
Comment (Rob23oba) [inline src/Init/Data/String/Defs.lean]: Why do you need this? `isEmpty` is a boolean function, not a `Prop` function so it already comes with the boolean decidable equality instance.

File: src/Init/Data/String/Lemmas/Modify.lean [hunk 2]
```diff
@@ -57,4 +57,10 @@ theorem length_map {f : Char → Char} {s : String} : (s.map f).length = s.lengt
 theorem map_eq_empty {f : Char → Char} {s : String} : s.map f = "" ↔ s = "" := by
   simp [← toList_eq_nil_iff]
 
+@[simp]
+theorem map_idempotent {s : String} (h : (c : Char) → f (f c) = f c) : (s.map f |>.map f) = s.map f := by
```
Comment (Rob23oba) [inline src/Init/Data/String/Lemmas/Modify.lean]: `map_map` and `map_id` would probably be better `simp` lemmas.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0a0323734b2d10c3f9355659f8e44b67bd36f644 --onto 57003e5c7962bd5db93fb51d4536969c3631c1db`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-24 02:11:59)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 0a0323734b2d10c3f9355659f8e44b67bd36f644 --onto 4c1e4a77b4952098ea043f9b8c2d155c20b24523`. You can force Mathlib CI using the `force-mathlib-ci` label. (2026-01-25 00:38:33)

File: src/Std/Internal/Http/Data/Headers/Value.lean [hunk 3]
```diff
@@ -0,0 +1,112 @@
...
+
+set_option linter.all true
+
+open Internal
+
+/--
+Checks if a character is valid for use in an HTTP header value.
+-/
+abbrev isValidHeaderChar (c : Char) : Bool :=
+  ('!' ≤ c ∧ c ≤ '~') ∨ c = '\t' ∨ c = ' '
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Data/Headers/Value.lean]: This should be equivalent to
```suggestion
  (' ' ≤ c ∧ c ≤ '~') ∨ c = '\t'
```

File: src/Std/Internal/Http/Internal/MultiMap.lean [hunk 4]
```diff
@@ -0,0 +1,213 @@
...
+Inserts a new key-value pair into the map.
+If the key already exists, appends the value to existing values.
+-/
+@[inline]
+def insert (map : MultiMap α β) (key : α) (value : β) : MultiMap α β :=
+  if let some existingValues := map.data.get? key then
+    let newArr := existingValues.val.push value
+    { data := map.data.insert key ⟨newArr, by unfold newArr; simp⟩ }
+  else
+    { data := map.data.insert key ⟨#[value], by simp⟩ }
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Internal/MultiMap.lean]: Non-linear write
```suggestion
  let data := map.data.alter key fun
    | some existingValues => some ⟨existingValues.val.push value, by simp⟩
    | none => some ⟨#[value], by simp⟩
  { data }
```

File: src/Std/Internal/Http/Internal/MultiMap.lean [hunk 5]
```diff
@@ -0,0 +1,213 @@
...
+/--
+Inserts a key with an array of values.
+-/
+@[inline]
+def insertMany (map : MultiMap α β) (key : α) (values : Array β) (h : values.size > 0) : MultiMap α β :=
+  if let some existingValues := map.data.get? key then
+    let newArr := existingValues.val ++ values
+    { data := map.data.insert key ⟨newArr, by unfold newArr; simp [Array.size_append]; omega⟩ }
+  else
+    { data := map.data.insert key ⟨values, h⟩ }
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Internal/MultiMap.lean]: Non-linear write
```suggestion
  let data := map.data.alter key fun
    | some existingValues => some ⟨existingValues.val ++ values, by simp; omega⟩
    | none => some ⟨values, h⟩
  { data }
```

File: src/Std/Internal/Http/Internal/MultiMap.lean [hunk 6]
```diff
@@ -0,0 +1,213 @@
...
+Creates an empty multimap.
+-/
+def empty : MultiMap α β :=
+  { data := ∅ }
+
+/--
+Creates a multimap from a list of key-value pairs.
+-/
+def ofList (pairs : List (α × β)) : MultiMap α β :=
+  { data := HashMap.ofList (pairs.map (fun (k, v) => (k, ⟨#[v], by simp⟩))) }
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Internal/MultiMap.lean]: This doesn't do the "right thing" for `ofList [("a", 1), ("a", 2)]`, does it?
```suggestion
def ofList (pairs : List (α × β)) : MultiMap α β :=
  pairs.foldl (fun acc (k, v) => acc.insert k v) empty
```

File: src/Std/Internal/Http/Internal/MultiMap.lean [hunk 7]
```diff
@@ -0,0 +1,213 @@
...
+
+/--
+Checks if the map is empty.
+-/
+@[inline]
+def isEmpty (map : MultiMap α β) : Bool :=
+  map.data.isEmpty
+
+/--
+Merges two multimaps, with the second taking precedence for duplicate keys.
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Internal/MultiMap.lean]:
```suggestion
Merges two multimaps, with the values of the second appearing after the values of the first for duplicate keys.
```
No keys are overridden, right?

File: src/Std/Internal/Http/Data/Headers.lean [hunk 8]
```diff
@@ -26,84 +28,223 @@ set_option linter.all true
 open Internal
 
 /--
-Case-insensitive HTTP headers collection. Header names are stored in lowercase
-internally, and rendered in canonical form (e.g., `Content-Type`) when converted
-to strings.
+A structure for managing HTTP headers as key-value pairs.
 -/
 structure Headers where
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Data/Headers.lean:34]: Can we move the `Headers` addition out of the core data types PR? Otherwise this is a bit confusing

File: src/Std/Internal/Http/Data/Headers/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,148 @@
...
+namespace Std.Http.Header
+
+set_option linter.all true
+
+open Internal
+
+/--
+Typeclass for typed HTTP headers that can be parsed from and serialized to header values.
+-/
+class Header (α : Type) where
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Data/Headers/Basic.lean:32]: Is it fine that this is `Std.Http.Header.Header`? The duplication feels a bit odd

File: src/Std/Internal/Http/Data/Headers/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,148 @@
...
+
+  /--
+  The ordered list of transfer codings.
+  -/
+  codings : Array String
+
+  /--
+  The list is non-empty.
+  -/
+  nonempty : codings.size > 0
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Data/Headers/Basic.lean]: Should the validation also be in here somewhere?

File: src/Std/Internal/Http/Data/Headers/Name.lean [hunk 11]
```diff
@@ -0,0 +1,169 @@
...
+
+instance : Inhabited Name where
+  default := ⟨"_", by decide, by native_decide⟩
+
+/--
+Creates a new `Name` from a string with an optional proof of validity. If no proof is provided, it
+attempts to prove validity automatically.
+-/
+@[expose]
+def new (s : String) (h : IsValidHeaderName s := by decide) (h₁ : IsLowerCase s := by native_decide) : Name :=
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Data/Headers/Name.lean]:
```suggestion
def new (s : String) (h : IsValidHeaderName s := by decide) (h₁ : IsLowerCase s := by decide) : Name :=
```
With a better `Decidable` instance

File: src/Std/Internal/Http/Internal/LowerCase.lean [hunk 12]
```diff
@@ -0,0 +1,48 @@
...
+
+namespace Std.Http.Internal
+
+set_option linter.all true
+
+/--
+Predicate asserting that a string is already in lowercase normal form.
+-/
+abbrev IsLowerCase (s : String) : Prop :=
+  s.toLower = s
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Internal/LowerCase.lean:33]: This could use a better `Decidable` instance:

```suggestion
/--
Predicate asserting that a string is already in lowercase normal form.
-/
@[expose] def IsLowerCase (s : String) : Prop :=
  s.toLower = s

private theorem Char.toLower_eq_self_iff {c : Char} : c.toLower = c ↔ c.isUpper = false := by
  simp only [Char.toLower, Char.isUpper]
  split <;> rename_i h <;> simpa [UInt32.le_iff_toNat_le, Char.ext_iff] using h

private theorem String.toLower_eq_self_iff {s : String} : s.toLower = s ↔ s.toList.any Char.isUpper = false := by
  simp only [String.toLower, ← String.toList_inj, String.toList_map]
  rw (occs := [2]) [← List.map_id s.toList]
  rw [List.map_eq_map_iff]
  simp [Char.toLower_eq_self_iff]

instance : Decidable (IsLowerCase s) :=
  decidable_of_decidable_of_iff (p := s.toList.any Char.isUpper = false)
    (by exact String.toLower_eq_self_iff.symm)
```

File: src/Init/Data/String/Defs.lean (hunk 1 above)
Comment (algebraic-dev) [reply src/Init/Data/String/Defs.lean]: Changed to @[expose]

File: src/Std/Internal/Http/Data/Headers/Value.lean [hunk 13]
```diff
@@ -0,0 +1,112 @@
...
+  default := ⟨"", by decide⟩
+
+namespace Value
+
+/--
+Creates a new `Value` from a string with an optional proof of validity. If no proof is provided,
+it attempts to prove validity automatically.
+-/
+@[expose]
+def new (s : String) (h  : IsValidHeaderValue s := by decide) : Value :=
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Data/Headers/Value.lean]: Why not just use the constructor? You can add `:= by decide` at the field, too.

File: src/Std/Internal/Http/Data/Headers/Value.lean [hunk 14]
```diff
@@ -0,0 +1,112 @@
...
+Checks if a character is valid for use in an HTTP header value.
+-/
+abbrev isValidHeaderChar (c : Char) : Bool :=
+  (' ' ≤ c ∧ c ≤ '~') ∨ c = '\t'
+
+/--
+Proposition that asserts all characters in a string are valid for HTTP header values.
+-/
+abbrev IsValidHeaderValue (s : String) : Prop :=
+  s.toList.all isValidHeaderChar
```
Comment (Rob23oba) [inline src/Std/Internal/Http/Data/Headers/Value.lean]: The RFC specifically also mentions that the a field value is nonempty and does not contain leading or trailing whitespace. I guess we might want some more string API (i.e. for `String.front`, `String.back`, `String.trimAscii`) though to make that feasible.

File: src/Std/Internal/Http/Data/Headers/Name.lean [hunk 15]
```diff
@@ -0,0 +1,166 @@
...
+
+set_option linter.all true
+
+open Internal
+
+/--
+Checks if a character is valid for use in an HTTP header name.
+-/
+def isValidHeaderNameChar (c : Char) : Bool :=
+  c ≥'!' &&  c ≤ '~' && c != '"' && c != '(' && c != ')' && c != ',' && c != ';' &&
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/Headers/Name.lean]: RFC 7230 Section 3.2.6 defines the delimiters that must be excluded from tokens (used for header names) as:
```
DQUOTE and "(),/:;<=>?@[\\]{}"
```

The current exclusion list is missing: `/`, `:`, `<`, `=`, `>`, `?`, `@`, `\`

Most notably, allowing `:` seems problematic since it's the header name/value separator. Should these be added to the exclusion list?

File: src/Std/Internal/Http/Data/Response.lean [hunk 16]
```diff
@@ -99,6 +110,26 @@ Sets the HTTP status code for the response being built
...
   { builder with head := { builder.head with status := status } }
 
+/--
+Sets the headers for the response being built
+-/
+def headers (builder : Builder) (headers : Headers) : Builder :=
+  { builder with head := { builder.head with headers } }
+
+/--
+Adds a single header to the request being built
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/Response.lean]: Typo: docstring says "request" but this is in `Response.Builder`.

File: src/Std/Internal/Http/Data/Headers.lean [hunk 17]
```diff
@@ -0,0 +1,250 @@
...
+-/
+@[inline]
+def isEmpty (headers : Headers) : Bool :=
+  headers.map.isEmpty
+
+/--
+Merges two headers, with the second taking precedence for duplicate keys.
+-/
+def merge (headers1 headers2 : Headers) : Headers :=
+  { map := headers1.map ∪ headers2.map }
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/Headers.lean:184]: The docstring says "with the second taking precedence for duplicate keys" but since this uses `MultiMap.merge` (which appends values), duplicate keys don't get replaced—they accumulate values from both. "Taking precedence" suggests replacement behavior. Should the docstring be updated to clarify that values are merged/appended?

File: src/Std/Internal/Http/Data/Headers/Name.lean [hunk 18]
```diff
@@ -0,0 +1,166 @@
...
+    ⟨val, h.left, h.right⟩
+  else
+    panic! s!"invalid header name: {s.quote}"
+
+/--
+Converts the header name to canonical HTTP title case (e.g., "Content-Type").
+-/
+@[inline]
+def toCanonical (name : Name) : String :=
+  let it := name.value.splitOn "-"
```
Comment (kim-em) [inline src/Std/Internal/Http/Data/Headers/Name.lean:110]: Minor cosmetic question: this would produce "Www-Authenticate" rather than the conventional "WWW-Authenticate". HTTP headers are case-insensitive so it's technically correct, but some well-known headers have established canonical forms (WWW-Authenticate, TE, DNT, etc.). Is this intentional, or would it be worth special-casing certain headers?

File: src/Std/Internal/Http/Data/Headers/Name.lean (hunk 15 above)
Comment (Rob23oba) [reply src/Std/Internal/Http/Data/Headers/Name.lean]: I had the idea of using
```lean-4
@[expose]
def isValidHeaderNameChar (c : Char) : Bool :=
  c.toNat < 128 && Nat.testBit 0x57ffffffc7fffffe03ff6cfa00000000 c.toNat

-- see https://httpwg.org/specs/rfc9110.html#tokens
example : ∀ n < 128, Nat.testBit 0x57ffffffc7fffffe03ff6cfa00000000 n ↔
    let c := Char.ofNat n; c >= '!' ∧ c <= '~' ∧ !"\"(),/:;<=>?@[\\]{}".toList.contains c := by
  decide
  ```
maybe that's too cryptic though? Regardless, this will need to be `@[expose]`d.

File: src/Std/Internal/Http/Data/Headers/Value.lean (hunk 14 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Headers/Value.lean]: I think RFC 9110 defines `field-value = *field-content`, so a header field value may be empty. I’d like to use the other functions from the String API, but most of them make `decide` impossible, so I end up needing `native_decide`, which I don’t think is good for the lib.

File: src/Std/Internal/Http/Data/Headers/Name.lean (hunk 18 above)
Comment (algebraic-dev) [reply src/Std/Internal/Http/Data/Headers/Name.lean:110]: This is intentional.

File: src/Std/Internal/Http/Internal/MultiMap.lean [hunk 19]
```diff
@@ -0,0 +1,282 @@
...
+namespace Std
+
+open Std Internal
+
+set_option linter.all true
+
+/--
+A structure for managing ordered key-value pairs where each key can have multiple values.
+-/
+structure MultiMap (α : Type u) (β : Type v) [BEq α] [Hashable α] where
```
Comment (TwoFX) [inline src/Std/Internal/Http/Internal/MultiMap.lean]: This definitely lives to need inside an `Internal` namespace.

Comment (TwoFX) [inline src/Std/Internal/Http/Internal/MultiMap.lean]: I'm confused by this design. Why did you not model this as a `HashMap α (Array β)`?

Comment (algebraic-dev) [reply src/Std/Internal/Http/Internal/MultiMap.lean]: Just to preserve order. it's useless in most cases but I think it's preferable to keep the header placement more predictable. Also, there are some really weird cases of HTTP servers that require headers in a specific order.

Comment (TwoFX) [reply src/Std/Internal/Http/Internal/MultiMap.lean]: I see.

Comment (Rob23oba) [reply src/Std/Internal/Http/Internal/MultiMap.lean]: Not that relevant but from the nature of it, `IndexMultiMap` might be a better name
